US06399613B1
A solution of 500 mg of 2,5-dimethoxycarbonylpyrazine and 0.48 cm3 of diethanolamine in 3 cm3 of ethanol is heated to a temperature in the region of the reflux temperature for 3 hours. The reaction mixture is cooled to 20° C. and the white solid formed is then filtered off and washed with 2 cm3 of ethanol. 600 mg of N,N,N′,N′-tetrakis(2-hydroxyethyl)pyrazine-2,5-dicarboxamide are thus obtained in the form of a white solid melting at 143° C. [1H NMR spectrum (250 MHz, (CD3)2SO-d6, at a temperature of 403 K, δ in ppm): from 3.50 to 3.80 (mt, 16H: 4×NCH2CH2O); 4.32 (mt, 4H: 4×OH); 8.76 (s, 2H: ═CH at 3 and ═CH at 6)].

reactant | 2,5-dimethoxycarbonylpyrazine | 500 mg | COC(=O)C1=NC=C(N=C1)C(=O)OC | C8H8N2O4
reactant | diethanolamine | 0.48 cm3 | N(CCO)CCO | C4H11NO2
solvent | ethanol | 3 cm3 | C(C)O | C2H6O
product | N,N,N′,N′-tetrakis(2-hydroxyethyl)pyrazine-2,5-dicarboxamide | 600 mg | OCCN(C(=O)C1=NC=C(N=C1)C(=O)N(CCO)CCO)CCO | C14H22N4O6
